US08372986B2
2-(1-benzyl-1H-1,2,3-triazol-5-yl)propan-2-ol (6a)
Benzyl azide (0.400 g, 3.00 mmol), 2-methyl-3-butyn-2-ol (0.290 ml, 3.00 mmol), Cp*RuCl(PPh3)2 (25 mg, 0.031 mmol). Solvent, benzene; reaction temperature, 80° C.; reaction time, 2.5 hours; yield, 0.63 g (96%). EI-MS: m/z 218 [M+1 ].

reactant | Benzyl azide | 3.00 mmol, 0.400 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | 2-methyl-3-butyn-2-ol | 3.00 mmol, 0.290 ml | CC(C)(C#C)O | C5H8O
catalyst | Cp*RuCl(PPh3)2 | 0.031 mmol, 25 mg | C[C-]1C(=C(C(=C1C)C)C)C.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(1-benzyl-1H-1,2,3-triazol-5-yl)propan-2-ol | C(C1=CC=CC=C1)N1N=NC=C1C(C)(C)O | C12H15N3O
